US07420001B2
To 80 mg (0.33 mmol) of 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid was added 2 mL of oxalyl chloride and the mixture refluxed for 2 h, then stirred room temperature overnight. The excess oxalyl chloride was removed under vacuum. The residue was dissolved in 2 mL of dichloromethane and was added to a mixture of 181 mg (0.5 mmol) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester and 1 mL of pyridine in an ice/water bath. The mixture was stirred at 0° C. overnight. The reaction mixture was diluted with dichloromethane and was washed with 2N HCl, and water. Removal of the solvent in vacuo gave the crude product which was purified by column chromatography to give 168 mg (86% yield) of (S)-2-{4′-[(5-chloro-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester as a white solid.

reactant | 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 0.33 mmol, 80 mg | ClC=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C11H9ClO4
reactant | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.5 mmol, 181 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-{4′-[(5-chloro-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid methyl ester | 168 mg, 86% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)Cl)OC)=O | C29H29ClN2O7S
